US07135467B2
5-Hydroxy-2-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester
To a solution of 5-benzyloxy-2-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (0.2058 g, 0.49 mmol) dissolved in EtOAc (20 mL) was added a small amount of palladium on carbon. The mixture was shaken under H2 at 40 psi for 10 hours, filtered over celite and concentrated to yield the title compound as a yellow waxy solid (0.0483 g, 30% yield). 1H NMR (500 MHz, MeOD) δ: 4.44 (2H, q, J=7.1 Hz), 3.75 (2H, t, J=5.9 Hz), 3.56 (3H, s), 3.22–3.21 (4H, m), 2.78 (4H, bs), 2.68 (2H, t, J=5.9 Hz), 1.41 (3H, t, J=7.2 Hz). HRMS (M+H) calcd for C14H23N4O5: 327.16685. found: 327.1661.

reactant | 5-benzyloxy-2-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.49 mmol, 0.2058 g | C(C)OC(=O)C=1N=C(N(C(C1OCC1=CC=CC=C1)=O)C)N1CCN(CC1)CCO | C21H28N4O5
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | 5-Hydroxy-2-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)N1CCN(CC1)CCO | C14H22N4O5
